US08431607B2
(4S,5R)-5-((benzyloxy)methyl)-3-(4-chlorophenyl)-4-(3-(trifluoromethyl)phenyl)oxazolidin-2-one
(4S,5R)-3-(4-chlorophenyl)-4-(3-(trifluoromethyl)phenyl)-5-(hydroxymethyl)-oxazolidin-2-one (0.08 mmol), prepared according to the method described for Example 64, in dichloromethane (1 mL) was treated with benzyltrichloroacetimidate (0.09 mmol) and catalytic trifluoromethane sulfonic acid. The reaction was stirred overnight, and was then purified on silica gel (10-30% ethyl acetate/hexanes) to give the title compound. 1H NMR (acetone-d6) δ (ppm) 7.82 (s, 1H), 7.74 (d, J=7.6 Hz, 1H) 7.68 (d, J=7.7 Hz, 1H), 7.65-7.61 (m, 1H), 7.54-7.52 (m, 2H), 7.37-7.28 (m, 6H), 5.72 (d, J=5.3 Hz, 1H), 4.71-4.62 (m, 3H), 3.95 (d, J=3.8 Hz, 2H); HPLC-MS calculated C24H19ClF3NO3 (M+H+): 462.1, found: 461.9.

reactant | (4S,5R)-3-(4-chlorophenyl)-4-(3-(trifluoromethyl)phenyl)-5-(hydroxymethyl)-oxazolidin-2-one | 0.08 mmol | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)C(F)(F)F)CO)=O | C17H13ClF3NO3
reactant | benzyltrichloroacetimidate | 0.09 mmol | C(C1=CC=CC=C1)OC(C(Cl)(Cl)Cl)=N | C9H8Cl3NO
reactant | trifluoromethane sulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (4S,5R)-5-((benzyloxy)methyl)-3-(4-chlorophenyl)-4-(3-(trifluoromethyl)phenyl)oxazolidin-2-one | C(C1=CC=CC=C1)OC[C@H]1[C@@H](N(C(O1)=O)C1=CC=C(C=C1)Cl)C1=CC(=CC=C1)C(F)(F)F | C24H19ClF3NO3
